US09382238B2
A mixture of 3-nitro-5-(trifluoromethyl)benzoic acid (2 g, 8.51 mmol) in DCM (30 mL) was added SOCl2 (1.242 mL, 17.01 mmol) at 20° C. The mixture was stirred at 20° C. for 2 h. TLC (PE/EA=2:1, Rf=0.3) showed the reaction was finished. The mixture was concentrated to give 3-nitro-5-(trifluoromethyl)benzoyl chloride (1.8 g, 6.50 mmol, 76% yield).

reactant | 3-nitro-5-(trifluoromethyl)benzoic acid | 8.51 mmol, 2 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4F3NO4
reactant | SOCl2 | 17.01 mmol, 1.242 mL | O=S(Cl)Cl | Cl2OS
reactant | EA | CC(OCC)=O | C4H8O2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-nitro-5-(trifluoromethyl)benzoyl chloride | 6.50 mmol, 1.8 g, 76% yield | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F | C8H3ClF3NO3
